US04009208
105. N,N'-Dodecamethylenebis(4-trifluoromethoxybenzamide)
m.p. 158°-159° C., 11.3 g., was prepared as in Example 1 using 24.8 g. of 4-trifluoromethoxybenzoyl chloride in 150 ml. of ethylene dichloride, 10.0 g. of 1,12-dodecanediamine, 60 ml. of 10% aqueous potassium hydroxide solution, 350 ml. of ethylene dichloride and recrystallization twice from ethanol and once from isopropyl alcohol.

reactant | 4-trifluoromethoxybenzoyl chloride | FC(OC1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O2
reactant | 1,12-dodecanediamine | C(CCCCCCCCCCCN)N | C12H28N2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethylene dichloride | C(CCl)Cl | C2H4Cl2
product | N,N'-Dodecamethylenebis(4-trifluoromethoxybenzamide) | FC(OC1=CC=C(C(=O)NCCCCCCCCCCCCNC(C2=CC=C(C=C2)OC(F)(F)F)=O)C=C1)(F)F | C28H34F6N2O4
